US03993683
[1-(2-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid methyl ester
A solution of 1.53 gm (5 millimols) of [1-(2-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid, m.p. 161°-163° C, in 15 ml of benzene was admixed with 0.24 gm (7.5 millimols) of methanol, and then a solution of 1.25 gm (6 millimols) of dicyclohexyl-carbodiimide in 5 ml of benzene was added. After stirring for one hour, the precipitated dicyclohexylurea was suction-filtered off, the filtrate was evaporated, and the residue was purified by chromatography on 300 gm of silicagel with cyclohexane/ethyl acetate = 1/4. Yield: 1.4 gm (87.6% of theory); oil, Rf -value: 0.5 on carrier 1 with cyclohexane/ethyl acetate = 1/4.

reactant | [1-(2-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid | 5 millimols, 1.53 gm | FC1=C(C=CC(=C1)C(C)S(=O)CC(=O)O)C1=CC=CC=C1 | C16H15FO3S
reactant | methanol | 7.5 millimols, 0.24 gm | CO | CH4O
reactant | dicyclohexyl-carbodiimide | 6 millimols, 1.25 gm | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | [1-(2-Fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid methyl ester | COC(CS(=O)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C17H17FO3S
